US07449456B2
1-Boc-piperazine and 4-nitrobenzenesulfonyl chloride were allowed to undergo the reaction in DMF in the presence of triethylamine, and then the nitro group was reduced in the sama manner as the catalytic hydrogenation shown in Reference Example 3 to obtain tert-butyl 4-[(4-aminophenyl)sulfonyl]piperazine-1-carboxylate. FN: 340.

reactant | 1-Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 4-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl 4-[(4-aminophenyl)sulfonyl]piperazine-1-carboxylate | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O4S
